US08957074B2
Following general amide formation method 3, 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid (0.2 g, 0.507 mmol) was combined with 3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester (0.136 g, 0.6 mmol) which gave 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester (0.269 g, 0.433 mmol) in 85% yield. MS m/z 602.7 (M+H)+.

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | 0.507 mmol, 0.2 g | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | 3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | 0.6 mmol, 0.136 g | C(C)(C)(C)OC(=O)N1C2CNCCC1CC2 | C12H22N2O2
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | 0.433 mmol, 0.269 g, 85% yield | C(C)(C)(C)OC(=O)N1C2CN(CCC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C32H42N8O4
